US07449467B2
(1S,3R)-3-[(tert-Butoxycarbonyl)amino]-1-(2-methoxyethyl)cyclopentanecarboxylic Acid
To a solution of (1S,4S)-4-[(tert-butoxycarbonyl)amino]-1-(2-methoxyethyl)cyclopent-2-ene-1-carboxylic acid (1.56 g, 5.47 mmol) in methanol (30 mL) was added 10% palladium on carbon (150 mg). The mixture was shaken under hydrogen at 50 psi overnight and filtered through celite. The filtrate was evaporated in vacuo to afford the desired product (1.57 g, 99.9%). MS calculated for C14H26NO5 (M+H) 288.2; found 188.2

reactant | (1S,4S)-4-[(tert-butoxycarbonyl)amino]-1-(2-methoxyethyl)cyclopent-2-ene-1-carboxylic acid | 5.47 mmol, 1.56 g | C(C)(C)(C)OC(=O)N[C@@H]1C=C[C@@](C1)(C(=O)O)CCOC | C14H23NO5
solvent | methanol | 30 mL | CO | CH4O
catalyst | palladium on carbon | 150 mg | [Pd] | Pd
product | (1S,3R)-3-[(tert-Butoxycarbonyl)amino]-1-(2-methoxyethyl)cyclopentanecarboxylic Acid | 1.57 g, 99.9% | C(C)(C)(C)OC(=O)N[C@H]1C[C@](CC1)(C(=O)O)CCOC | C14H25NO5
